US08012966B2
N-{5-Fluoro-3-[3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-methoxy-acetamide
The title compound was prepared under the same conditions as described in Example 46 with 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-methoxy-acetamide as starting materials to give N-{5-fluoro-3-[3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-methoxy-acetamide (50 mg, 54.4%) as a yellow solid.

reactant | 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C1=C(NC2=C1C(NCC2)=O)C=O | C14H11FN2O2
reactant | N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-methoxy-acetamide | FC=1C=C2CC(NC2=CC1NC(COC)=O)=O | C11H11FN2O3
product | N-{5-fluoro-3-[3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-methoxy-acetamide | 50 mg, 54.4% | FC=1C=C2C(C(NC2=CC1NC(COC)=O)=O)=CC1=C(C=2C(NCCC2N1)=O)C1=CC=C(C=C1)F | C25H20F2N4O4
